US05519034
A solution of 1-phenylcyclobutanecarbonyl chloride (129 g) in dichloromethane (500 ml) was added under nitrogen over 1.5 hours to a stirred mixture of 4-methoxyphenethylamine (99.5 g), dichloromethane (500 ml) and triethylamine (110 ml). The mixture was stirred at 20°-25° C. for one hour and allowed to stand for 16 hours. The reaction mixture was washed with 2N hydrochloric acid, water and 2N aqueous sodium hydroxide solution, dried and evaporated to give N-[2-(4-methoxyphenyl)ethy]-1-phenylcyclobutane carboxamide.

reactant | 1-phenylcyclobutanecarbonyl chloride | 129 g | C1(=CC=CC=C1)C1(CCC1)C(=O)Cl | C11H11ClO
reactant | 4-methoxyphenethylamine | 99.5 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | triethylamine | 110 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-[2-(4-methoxyphenyl)ethy]-1-phenylcyclobutane carboxamide | COC1=CC=C(C=C1)CCNC(=O)C1(CCC1)C1=CC=CC=C1 | C20H23NO2
